US04432906
To a cooled solution of 2.25 g (27 mmoles) of pyridine in 30 ml of dichloromethane was added 1.38 g (13.8 mmoles) of chromium trioxide in portions. A solution of 0.345 g (1.65 mmoles) of (Z,Z)-2,2-dimethyl-3,6-dodecadien-1-ol in 5 ml of dichloromethane was slowly added to the stirred suspension at room temperature. After stirring at room temperature for 12 hours, the mixture was poured into 10% aqueous NaHCO3 solution and the product was extracted with ether. The ether extract was washed with brine, dried (MgSO4) and concentrated in vacuo. The residue was chromatographed on silica gel. Elution with 9:1 hexane-ether afforded 0.195 g (57%) of (Z,Z)-2,2-dimethyl-3,6-dodecadienal.

reactant | pyridine | 27 mmoles, 2.25 g | N1=CC=CC=C1 | C5H5N
reactant | (Z,Z)-2,2-dimethyl-3,6-dodecadien-1-ol | 1.65 mmoles, 0.345 g | CC(CO)(\C=C/C\C=C/CCCCC)C | C14H26O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | chromium trioxide | 13.8 mmoles, 1.38 g | [O-2].[O-2].[O-2].[Cr+6]
product | (Z,Z)-2,2-dimethyl-3,6-dodecadienal | 0.195 g, 57% | CC(C=O)(\C=C/C\C=C/CCCCC)C | C14H24O
